US08003656B2
C. 3-(4-Fluorophenyl)-2-[2-fluoro-3-(trifluoromethyl)phenoxy]pyrido[3,2-d]pyrimidin-4(3H)-one (Compound 3)
A mixture of 2-chloro-3-(4-fluorophenyl)pyrido[3,2-d]pyrimidin-4(3H)-one (55 mg, 0.20 mmol) and 2-fluoro-3-trifluoromethylphenol (50 μl, 0.40 mmol) is heated to 140° C. for 18 hours. After cooling to RT, the crude mixture is purified by column chromatography (gradient from CH2Cl2 to 20% EtOAc/CH2Cl2) to give the title compound as a white solid. 1H NMR (400 MHz, DMSO-d6) 8.71 (1H, m), 7.83 (2H, m), 7.70 (4H, m), 7.45 (3H, m). MS (M+1): 420.07; RT=1.13 min.

reactant | 2-chloro-3-(4-fluorophenyl)pyrido[3,2-d]pyrimidin-4(3H)-one | 0.20 mmol, 55 mg | ClC=1N(C(C2=C(N1)C=CC=N2)=O)C2=CC=C(C=C2)F | C13H7ClFN3O
reactant | 2-fluoro-3-trifluoromethylphenol | 0.40 mmol, 50 μl | FC1=C(C=CC=C1C(F)(F)F)O | C7H4F4O
product | 3-(4-Fluorophenyl)-2-[2-fluoro-3-(trifluoromethyl)phenoxy]pyrido[3,2-d]pyrimidin-4(3H)-one | FC1=CC=C(C=C1)N1C(=NC2=C(C1=O)N=CC=C2)OC2=C(C(=CC=C2)C(F)(F)F)F | C20H10F5N3O2
